US08017775B2
2-(2-Hydroxypyridin-3-yl)-5-nitrobenzoic acid (Reference Compound No. 1-3-(3))
Methyl 2-(2-hydroxypyridin-3-yl)-5-nitrobenzoate (Reference Compound No. 1-3-(2), 300 mg, 1.09 mmol) was dissolved in methanol (2 mL), then conc. HCl (5 mL) was added thereto, and then the reaction mixture was refluxed overnight. The solvent was removed under reduced pressure to give the titled reference compound (263 mg) as a yellow solid. (Yield 93%)

reactant | Methyl 2-(2-hydroxypyridin-3-yl)-5-nitrobenzoate | OC1=NC=CC=C1C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C13H10N2O5
reactant | HCl | 5 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 2-(2-Hydroxypyridin-3-yl)-5-nitrobenzoic acid | 263 mg, Yield 93% | OC1=NC=CC=C1C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C12H8N2O5
